US06310056B1
b) (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylic Acid
To a solution of 203 mg of 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate in 4 ml of THF and 4 ml of 1/15 M phosphate buffer (pH 6.8) was added 152 mg of 10% Pd-C. The reactor was purged with hydrogen, the reaction mixture was stirred at room temperature for 1 hour. The catalyst was collected by filtration on Celite, and washed with water. The filtrate was washed with ethyl acetate, and then the aqueous layer was purified by column chromatography on DIAION HP-20, followed by crystallization form 1 ml of water to give 32.8 mg of the title compound.

reactant | 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate | 203 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C=2N3C(SC2)=CN=C3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C21H18N4O6S
reactant | phosphate | 15 M, pH 6.8 | P(=O)([O-])([O-])[O-]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
catalyst | Pd-C | 152 mg | [Pd] | Pd
product | (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylic Acid | 32.8 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C=2N3C(SC2)=CN=C3)C(=O)O)C1=O | C14H13N3O4S
